US08445480B2
Step E: 2-(5-Cyano-7-isopropyl-1,3-benzoxazol-2yl)pyrimidine-5-carboxylic acid
To a solution of methyl-2-(5-cyano-7-isopropyl-1,3-benzoxazol-2yl)pyrimidine-5-carboxylate (429 mg, 1.332 mmol) in tetrahydrofuran (30 ml) was added 1N lithium hydroxide (1.466 ml) dropwise at 60° C. The reaction mixture was stirred at room temperature for 4 h, and then the solution was concentrated and the residue was partitioned between ethyl acetate and water. The aqueous layer was acidified with 1N HCl to pH=4˜5. The white solid was filtered and dissolved in a mixture of dichloromethane and methanol (9:1). This solution was dried over magnesium sulfate and then concentrated to provide the title compound (74 mg) as a yellow solid. Mass spectrum (ESI) 308.8 (M+1). 1H NMR (500 MHz, DMSO) δ 9.45 (s, 2H), 8.42 (s, 1H), 7.92 (s, 1H), 3.20˜3.60 (m, 1H, overlapped with H2O peak), 1.41 (s, 6H).

reactant | methyl-2-(5-cyano-7-isopropyl-1,3-benzoxazol-2yl)pyrimidine-5-carboxylate | 1.332 mmol, 429 mg | COC(=O)C=1C=NC(=NC1)C=1OC2=C(N1)C=C(C=C2C(C)C)C#N | C17H14N4O3
reactant | lithium hydroxide | 1N, 1.466 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(5-Cyano-7-isopropyl-1,3-benzoxazol-2yl)pyrimidine-5-carboxylic acid | 74 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=NC=C(C=N2)C(=O)O)C1)C(C)C | C16H12N4O3
